US08138187B2
Benzofuran-3-ylacetic acid methyl ester
KOtBu (0.673 g, 6 mmol) was dissolved in dry DMF (10 ml) with exclusion of oxygen. Phosphonoacetic acid triethyl ester (0.87 ml, 6 mmol) was then added to the mixture. After 20 min a solution of benzofuran-3(2H)-one (0.536 g, 4 mmol) in dry DMF (10 ml, argon atmosphere) was added to this mixture. The reaction mixture was stirred at room temperature for 1 h and thereafter poured on to ice (50 ml) for working up. The mixture obtained was extracted with diethyl ether (4×20 ml). The organic phase was washed with water (4×20 ml), dried with Na2SO4 and then concentrated. The product formed was purified by column chromatography [silica gel 60 (50 g); cyclohexane, ethyl acetate (4:1)] and obtained in a yield of 0.372 g (48%) as a yellowish oil.

reactant | KOtBu | 6 mmol, 0.673 g | CC(C)(C)[O-].[K+]
reactant | Phosphonoacetic acid triethyl ester | 6 mmol, 0.87 ml | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | benzofuran-3(2H)-one | 4 mmol, 0.536 g | O1CC(C2=C1C=CC=C2)=O | C8H6O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | oxygen | O=O | O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Benzofuran-3-ylacetic acid methyl ester | COC(CC1=COC2=C1C=CC=C2)=O | C11H10O3
